US07994185B2
N-{3-[2-(1,1-dimethylethyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 25 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,5-difluorobenzenesulfonamide (150 mg, 0.269 mmol) and dimethyl zinc in toluene (0.269 mL, 0.539 mmol), the title compound was obtained as a yellow solid (105 mg, 72% yield). MS (ESI): 537 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,5-difluorobenzenesulfonamide | 0.269 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1F)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H17ClF4N4O2S2
reactant | dimethyl zinc | C[Zn]C
reactant | toluene | 0.539 mmol, 0.269 mL | C1(=CC=CC=C1)C | C7H8
product | N-{3-[2-(1,1-dimethylethyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,5-difluorobenzenesulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1F)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F)C1=NC(=NC=C1)C | C24H20F4N4O2S2
